US06255285B1
To a solution of Z-Phg-OSu (640 mg) in DMF (10 ml), 463 mg (1.84 mmol) of Tyr(3-tBu)-OMe and 408 mg (3.34 mmol) of DMAP were added and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate and washed first with saturated aqueous NaHCO3, then with water and finally with saturated brine. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=1:1) to give Z-Phg-Tyr(3-tBu)-OMe in the amount of 905 mg (quantitative).

reactant | Z-Phg-OSu | 640 mg | N([C@@H](C1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C20H18N2O6
reactant | Tyr(3-tBu)-OMe | 1.84 mmol, 463 mg | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 3.34 mmol, 408 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-Phg-Tyr(3-tBu)-OMe | N([C@@H](C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C30H34N2O6
